US07368578B2
A mixture of 1-benzyl-3-[(4{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carboxamide (0.50 g) and acetic anhydride (20 mL) was heated under reflux for 4 hrs. The reaction mixture was concentrated and ethyl acetate was added to the residue. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine and concentrated to give N-acetyl-1-benzyl-3-[(4{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carboxamide as colorless crystals (0.25 g, yield 48%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 193-194° C.

reactant | 1-benzyl-3-[(4{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carboxamide | 0.50 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)N)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1 | C27H24N4O5
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-acetyl-1-benzyl-3-[(4{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carboxamide | 0.25 g, yield 48% | C(C)(=O)NC(=O)C=1C(=NN(C1)CC1=CC=CC=C1)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1 | C29H26N4O6
